US04414080
A series of ionene polymers were prepared according to the procedure of Example 1 except that equivalent amounts of iodo-propane, iodo-hexane, iodo-dodecane, iodo-butane or a mixture of dibromobutene and diiodopropane or diiodoethane were substituted for dibromo-p-xylene.

reactant | iodo-propane | ICCC | C3H7I
reactant | iodo-hexane | ICCCCCC | C6H13I
reactant | iodo-dodecane | ICCCCCCCCCCCC | C12H25I
reactant | iodo-butane | ICCCC | C4H9I
reactant | dibromobutene | BrC(=CCC)Br | C4H6Br2
reactant | diiodopropane | IC(C)(C)I | C3H6I2
reactant | diiodoethane | IC(C)I | C2H4I2
reactant | dibromo-p-xylene | BrC=1C(=C(C=CC1C)C)Br | C8H8Br2
product | ionene | CC1=CC2=C(C=C1)C(CCC2)(C)C | C13H18
